US08975254B2
b) 2-nitro-4-(1H-pyrazol-5-yl)benzonitrile
To a solution of 2-nitro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)-benzonitrile (17.7 g, 59 mmol) in EtOH (440 ml) was added 44 ml of concentrated HCl. The reaction mixture was stirred at RT for 1.5 h. The mixture was poured into water (1 l), and 2 M NaOH-solution was added until pH was 12. Thus resulting precipitate was filtered, washed with water and dried to give 11.7 g (92%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 7.09 (d, 1H), 7.91 (d, 1H), 8.20 (d, 1H), 8.37 (dd, 1H), 8.73 (d, 1H), 13.4 (bs, 1H).

reactant | 2-nitro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)-benzonitrile | 59 mmol, 17.7 g | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C1=CC=NN1C1OCCCC1 | C15H14N4O3
reactant | HCl | 44 ml | Cl | ClH
reactant | water | 1 l | O | H2O
reactant | NaOH | 2 M | [OH-].[Na+]
solvent | EtOH | 440 ml | CCO | C2H6O
product | 2-nitro-4-(1H-pyrazol-5-yl)benzonitrile | 11.7 g, 92% | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C1=CC=NN1 | C10H6N4O2
